US05075381
(3) 3-Methyl-1-butene/4-methyl-1-pentene random copolymer [component (b)]
A random copolymer was prepared in the same manner as described in (2) above except that 1.65 kg of a mixture of 3-methyl-1-butene with 4-methyl-1-pentene at a weight ratio of 1/0.65 was supplied at a rate of 0.41 kg/hr instead of 1.0 kg of 3-methyl-1-butene supplied at a rate of 0.25 kg/hr. The crystallization degree of the polymer obtained was 54.0%.

reactant | 3-methyl-1-butene | CC(C=C)C | C5H10
reactant | 4-methyl-1-pentene | CC(CC=C)C | C6H12
reactant | 3-methyl-1-butene | 1.0 kg | CC(C=C)C | C5H10
product | 3-Methyl-1-butene 4-methyl-1-pentene | CC(C=C)C.CC(CC=C)C | InChI=1S/C6H12.C5H10/c1-4-5-6(2)3;1-4-5(2)3/h4,6H,1,5H2,2-3H3;4-5H,1H2,2-3H3
